US06867161B1
To an ether solution (7.5 ml) containing tetraisopropoxytitanium (0.284 g, 1.0 mmol) and diethyl allyl(benzyl)malonate (0.145 g, 0.5 mmol) was added dropwise at −50° C. 1.53 ml of 1.31M ether solution containing isopropylmagnesium chloride (2 mmol). Upon stirring at −40° C. for 1 hour, the reaction liquid turned from yellow into brown. With 1N hydrochloric acid added, the reaction liquid was stirred at room temperature for 15 minutes. After treatment and purification as in Referential Example 1, there was obtained diethyl benzylmalonate in deallylated form (yields: 97%).

reactant | diethyl allyl(benzyl)malonate | 0.5 mmol, 0.145 g | C(C=C)C(C(=O)OCC)(C(=O)OCC)CC1=CC=CC=C1 | C17H22O4
reactant | isopropylmagnesium chloride | 2 mmol | C(C)(C)[Mg]Cl
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | tetraisopropoxytitanium | 1.0 mmol, 0.284 g | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | ether | 1.31M, 1.53 ml | CCOCC | C4H10O
solvent | ether | 7.5 ml | CCOCC | C4H10O
product | diethyl benzylmalonate | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
